US07842685B2
Synthesis of (3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)(morpholino)methanone
The title compound was synthesized using the described in Example 105 above using 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzoic acid (101 mg, 0.259 mmol) and morpholine. MS (ESI) m/z: Calculated: 459.1; Observed: 460.1 (M++1).

reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzoic acid | 0.259 mmol, 101 mg | FC=1C=C(C(=O)O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H15FN2O2S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | (3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)(morpholino)methanone | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C(=O)N1CCOCC1 | C26H22FN3O2S
